US07388061B2
To 5.5 g pyrocatechol were added 50 ml tetrahydrofuran and 12.1 ml pyridine with stirring. Then to the resulting homogeneous mixture was slowly added 14.5 ml benzoyl chloride, and the reaction was stirred at room temperature for 1 hour, then heated refluxing for 4 hours. Next, 70 ml water was added to dissolve the resulting salt. The reaction mixture was extracted with toluene. Organic phase was separated, washed with saturated saline for two times, dried over anhydrous sodium sulfate. Removing solvent gave a white solid. After recrystallizing from ethyl acetate, 1,2-phenylene dibenzoate was obtained as a white crystal, the yield was 94%, and m.p. was 75-77° C.

reactant | pyrocatechol | 5.5 g | C=1(O)C(O)=CC=CC1 | C6H6O2
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
reactant | pyridine | 12.1 ml | N1=CC=CC=C1 | C5H5N
reactant | benzoyl chloride | 14.5 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | water | 70 ml | O | H2O
product | 1,2-phenylene dibenzoate | yield was 94% | C(C1=CC=CC=C1)(=O)OC1=C(C=CC=C1)OC(C1=CC=CC=C1)=O | C20H14O4
